US09382238B2
To a solution of methyl 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetate (210 g, 519 mmol) in THF (500 mL) was added a solution of LiOH.H2O (52 g, 1.23 mol) in H2O (700 mL). The mixture was stirred at 60° C. for 10 h. TLC (PE/EA=5:1, Rf=0.3) showed the reaction was finished. The mixture was concentrated and neutralized with 1.0 M HCl to pH=7.0. Then the mixture was filtered, and the solid was washed with water and dry in vacuo to give 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid (183.3 g, 0.45 mol, 93% yield): 1H NMR (400 MHz, CD3OD) δ 7.94 (s, 1H), 7.41-7.28 (m, 3H), 7.24 (d, J=9.6 Hz, 2H), 6.91 (d, J=8.8 Hz, 2H), 6.44 (s, 1H), 5.26 (s, 2H), 4.11 (q, J=6.8 Hz, 2H), 3.78 (s, 3H), 3.67 (s, 2H), 1.36 (t, J=7.2 Hz, 3H); ES-LCMS m/z 412 (M+H).

reactant | methyl 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetate | 519 mmol, 210 g | C(C)OC1=C(C=NC(=C1)OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)OC)F | C24H24FNO5
reactant | LiOH.H2O | 1.23 mol, 52 g | O[Li].O
reactant | EA | CC(OCC)=O | C4H8O2
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | H2O | 700 mL | O | H2O
product | 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid | 0.45 mol, 183.3 g, 93% yield | C(C)OC1=C(C=NC(=C1)OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)O)F | C23H22FNO5
